### PR TITLE
List mappings

### PR DESCRIPTION
**Pull request by agontard**
Alignment of all list functions but filter.

### CODE REVIEW

File: mappings.v [hunk 1]
```diff
@@ -2158,7 +2158,110 @@ Proof.
...
+Require Import Coq.Lists.List. 
+
+(****************************************************************************)
+(* Some first theorems to help automatize function alignments *)
+(****************************************************************************)
+
+(* HOL-Light unnecessary variable elimination *) 
+Lemma hol_uv_elim {U A B : Type'} {g : A -> B} (P : (A -> B) -> Prop) {uv0 : U} : (forall g' : A -> B, P g' <-> forall x : A, g' x = g x) -> g = ε (fun f : U -> A -> B => forall uv : U, P (f uv)) uv0.
+Proof. 
+intros. assert (exists g' : U -> A -> B, forall uv' : U, P (g' uv')). exists (fun _ => g). intro. now apply H. apply eq_sym. apply fun_ext. apply H. now apply ε_spec in H0.
```
Comment (TheoWinterhalter) [inline mappings.v:2170]: This is a very long line.

File: mappings.v [hunk 2]
```diff
@@ -2158,7 +2158,110 @@ Proof.
...
+Proof. 
+intros. assert (exists g' : U -> A -> B, forall uv' : U, P (g' uv')). exists (fun _ => g). intro. now apply H. apply eq_sym. apply fun_ext. apply H. now apply ε_spec in H0. 
+Qed.
+
+(* automatically translating inductive functions on lists. To be improved ? *) 
+Lemma hol_list_recursive_align {U A B : Type'} {uv0 : U} (x : B) (f : A -> list A -> B -> B) : @ε (U -> list A -> B) (fun f' : U -> list A -> B => forall uv : U, (f' uv nil = x) /\ (forall a : A, forall l : list A, (f' uv (a::l) = f a l (f' uv l)))) uv0 = fix g (l : list A) := match l with |nil => x |a::l => f a l (g l) end.
+Proof.
+apply eq_sym. apply (hol_uv_elim (fun f' : list A -> B => f' nil = x /\ (forall (a : A) (l : list A), f' (a :: l) = f a l (f' l)))). split;intros. 
+  { destruct H. induction x0. auto. rewrite H0. now rewrite IHx0. }
+  { split. auto. intros. rewrite H. now rewrite H. }
```
Comment (TheoWinterhalter) [inline mappings.v:2178]: Watch out, this is not very robust to use autogenerated names. It's better to give names explicitly with `intros H x` and so on. Also, instead of braces (`{`), you can use bullets.

File: mappings.v (hunk 1 above)
Comment (fblanqui) [reply mappings.v:2170]: Thank you Antoine for your PR. Yes, indeed, could you please reformat your file so as to limit lines to 80 characters max?
